US06551682B1
Next, a reaction flask was loaded with 2-fluoro-6-(4-trifluoromethylphenoxy)pyridine (8.0 g) and ethanol (60 ml), and heated up to 40° C. with stirring. To this mixture, hydrazine monohydrate (7.6 g) was dropwise added in 30 minutes. The temperature of the mixture was raised to the reflux temperature, followed by stirring for 20 hours. Thereafter, the heating was stopped, and the reaction mixture was cooled, followed by filtration to remove insoluble components. The filtrate was condensed by an evaporator to give 2-hydrazino-6-(4-trifluoromethylphenoxy)pyridine (4.0 g).

reactant | 2-fluoro-6-(4-trifluoromethylphenoxy)pyridine | 8.0 g | FC1=NC(=CC=C1)OC1=CC=C(C=C1)C(F)(F)F | C12H7F4NO
reactant | hydrazine monohydrate | 7.6 g | O.NN
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-hydrazino-6-(4-trifluoromethylphenoxy)pyridine | 4.0 g | N(N)C1=NC(=CC=C1)OC1=CC=C(C=C1)C(F)(F)F | C12H10F3N3O
